US07371872B2
Ethyl (6S)-4-thiabicyclo[3.1.0]hex-2-ene-6-carboxylate
A 3-neck, 5 liter flask is fitted with a stirrer, a thermocouple, and a teflon addition tube, and a N2 inlet is charged 2000 ml of thiophene (d=1.05 g/mL, 25.0 mol at beginning and increasing to 45 mol with addition of ethyl diazoacetate solution in thiophene, 17.1 equiv based upon total addition of ethyl diazoacetate and not corrected for potency of EDA, 19.0 equiv based upon potency corrected ethyl diazoacetate). To this is added, under N2, 0.968 g of Rh2(octanoate)4 (1.24 mmoles, 0.0472 mol % based upon g of ethyl diazoacetate not corrected for potency, 0.052 mole % based upon moles of pure ethyl diazoacetate, Johnson Mathey: Lot No. 059255001). The suspension is heated to 46° C. and stirred at 46° C. for 10 minutes to affect dissolution to a green solution. To the solution is added, by a positive displacement pump, a solution of 300 g of ethyl diazoacetate (90% pure, 2.63 moles, 2.37 moles pura, 1.00 equiv, Aldrich: Lot No. 17603PI) dissolved in 1600 mL of thiophene. The rate of addition is such that the total addition time is 8 hours; the slow rate of addition suppresses formation of the maleate and fumarate ethyl esters. When no ethyl diazoacetate remains (approximately thirty minutes), the dark amber reaction (3,985 g) is cooled to 23° C. The reaction mixture is split into portions and the larger portion (3,240 g of 3,985 g total=81.3%) is directly concentrated to an oil. The crude product is passed through the wiped film distillation apparatus at 1.5 torr and 23° C. to degas the product and to remove residual amount of thiophene. The product is then distilled at 120° C. and 1.3 torr. The title compound (faint yellow) is collected in two fractions, 155.0 g and 32.2 g. Analysis by HPLC determines a potency of 78% and 76% for the two lots respectively. Crystallization of the distillate from above is accomplished by dissolution in methanol (2 mL per 1 g of distillate) and cooling to −10° C., at which time the solution is optionally seeded if crystal growth is not observed. Once crystal growth has commenced, the mixture is further cooled to 45° C. and stirred for 2-3 hours, filtered, and washed with cold (−45° C.) methanol (1×1 mL per 1 g of distillate). The material is dried in vacuo at 24° C. to provide the title compound as a white to off-white solid in 80-85% recovery and >98% potency.

reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | ethyl diazoacetate | 2.63 moles, 300 g, 1.00 equiv | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | thiophene | 1600 mL | S1C=CC=C1 | C4H4S
reactant | thiophene | 2000 ml | S1C=CC=C1 | C4H4S
product | Ethyl (6S)-4-thiabicyclo[3.1.0]hex-2-ene-6-carboxylate | C12C=CSC2[C@@H]1C(=O)OCC | C8H10O2S
